Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Latex / Shellfish
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ female with a PMH notable for asthma
who presents with dyspnea.

The patient reports that approximately 5 days ago, she developed
cold like symptoms with fevers, chills, congestion, and frontal
headaches. The symptoms continued until 3 days ago when she
developed wheezing. The wheezing progressed to become shortness
of breath 2 days ago. Mild exertion would make the dyspnea 
worse,
such as walking up a flight of stairs from her first floor to 
her
second floor of the home. She started using nebulizer treatments
and eventually required using it hourly to get relief. As a
result, she presented to the ED for further evaluation. She
reports no chest pain, but does have some tightness from the
wheezing and dyspnea. There's been no nausea, vomiting, 
abdominal
pain, diarrhea, or rashes. She's been admitted to the ICU before
for asthma exacerbations but have not been intubated. She says
cold temperature and weather changes tend to exacerbate her
symptoms. She's had no sick exposure or new allergen exposure
that she's aware of.

In the ___ ED, she was initially treated with stacked Duonebs
and methylprednisolone 125 mg IV x1 with some mild improvement.
She then received supplemental magnesium. Initial duoneb
frequency was unable to be spaced out to Q3H, and she was going
to be admitted to the ICU. However, with further treatment, she
improved, and was then admitted to the general medical ward.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative.
 
Past Medical History:
- asthma
- hypothyroidism
- obesity
- acrochrodon
- basal cell carcinoma
- alopecia
- lentegines
- fibroids
- anemia
- sleep apnea
- s/p thyroidectomy
- s/p cesarean section
- basal cell carcinoma excision
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for
hospitalization.
 
Physical Exam:
ADMISSION EXAM:
VITALS: ___ Temp: 98.3 PO BP: 144/84 HR: 102 RR: 18 O2
sat: 95% O2 delivery: 3L NC
GENERAL: Alert and in mild distress.
EYES: Anicteric, normal conjunctivae. Pupils equally round.
ENT: Ears and nose without visible erythema, masses, or trauma.
Oropharynx without visible lesion, erythema or exudate.
CV: Heart tachycardic and regular, no murmur, no S3, no S4. No
peripheral edema.
RESP: Lungs with diffuse expiratory wheezing and end-inspiratory
rhonchi with poor air movement bilaterally. Breathing is
non-labored. Speaking in full sentences.
GI: Abdomen soft, obese habitus, non-distended, non-tender to
palpation. Bowel sounds present. No hepatomegaly or 
splenomegaly.
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs.
SKIN: No rashes or ulcerations noted.
NEURO: Face symmetric, gaze conjugate with EOMI, speech fluent.
Sensation to light touch grossly intact throughout.
PSYCH: Good insight and judgment. Alert and oriented. Normal
memory. Pleasant affect.

DISCHARGE EXAM:
VS: 98.0PO 114/77 75 18 90 RA    
GENERAL: Alert and in mild distress.
EYES: Anicteric, normal conjunctivae. Pupils equally round.
ENT: Ears and nose without visible erythema, masses, or trauma.
Oropharynx without visible lesion, erythema or exudate.
CV: Heart tachycardic and regular, no murmur, no S3, no S4. No
peripheral edema.
RESP: Lungs with scattered expiratory wheezing, no rhonchi with 
moderate air movement bilaterally. Breathing is non-labored. 
Speaking in full sentences.
GI: Abdomen soft, obese habitus, non-distended, non-tender to
palpation. Bowel sounds present. No hepatomegaly or 
splenomegaly.
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs.
SKIN: No rashes or ulcerations noted.
NEURO: Face symmetric, gaze conjugate with EOMI, speech fluent.
Sensation to light touch grossly intact throughout.
PSYCH: Good insight and judgment. Alert and oriented. Normal
memory. Pleasant affect.
 
Pertinent Results:
ADMISSION LABS:
___ 12:45AM BLOOD WBC-11.2* RBC-4.20 Hgb-12.8 Hct-39.2 
MCV-93 MCH-30.5 MCHC-32.7 RDW-13.3 RDWSD-45.3 Plt ___
___ 12:45AM BLOOD Glucose-167* UreaN-10 Creat-0.9 Na-140 
K-4.8 Cl-104 HCO3-20* AnGap-16
___ 01:01AM BLOOD Lactate-2.2*

IMAGING:
CXR ___:
No acute intrathoracic process identified.

MICROBIOLOGY:
Urine culture ___: negative

DISCHARGE LABS:
___ 07:28AM BLOOD WBC-12.2* RBC-4.16 Hgb-12.6 Hct-39.0 
MCV-94 MCH-30.3 MCHC-32.3 RDW-13.5 RDWSD-46.1 Plt ___
___ 07:28AM BLOOD Glucose-86 UreaN-13 Creat-0.7 Na-142 
K-4.0 Cl-103 HCO3-24 AnGap-15
___ 07:28AM BLOOD Calcium-8.1* Phos-4.3 Mg-2.___ female with a PMH notable for asthma who presents 
with dyspnea and an asthma exacerbation.

ACUTE/ACTIVE PROBLEMS:
# Acute Hypoxemic Respiratory Failure
# Asthma Exacerbation
# Acute Upper Respiratory Infection:  Asthma exacerbation likely 
triggered by an upper viral respiratory illness. Initially slow 
to improve, but now improving each day, not hypoxic and not 
requiring supplementary oxygen.  She will receive prednisone 40 
mg daily for five days, followed by three days on 20 mg daily, 
as has been done with other exacerbation.  Nebulizers were given 
during hospitalization, and patient will resume inhalers as an 
outpatient.  Nasal saline spray and oxymetolazine were provided 
for nasal congestion, and acetaminophen was given for sinus 
pressure.  Patient was 91% on room air on ambulation. She will 
follow up with her PCP after discharge to assure her respiratory 
status is stable.  She should also see her pulmonologist after 
discharge.

CHRONIC/STABLE PROBLEMS:
# Hypothyroidism: continued Levothyroxine Sodium 125 mcg PO/NG 
DAILY

TRANSITIONS OF CARE
-------------------
# Follow-up: She will follow up with her PCP after discharge to 
assure her respiratory status is stable.  She should also see 
her pulmonologist after discharge.

# Code Status/ACP: presumed FULL CODE

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 125 mcg PO DAILY 
2. Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath 
3. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Oxymetazoline 1 SPRY NU BID:PRN congestion Duration: 3 Days 
RX *oxymetazoline 0.05 % 1 spray IH twice a day Disp #*1 Spray 
Refills:*0 
3.  PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0 
4.  Sodium Chloride Nasal ___ SPRY NU DAILY:PRN Nasal irritation 
 
5.  Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath  
6.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
7.  Levothyroxine Sodium 125 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Asthma exacerbation
Upper respiratory tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent 
hospitalization.  You came to the hospital with shortness of 
breath.  Further testing showed that you had an asthma 
exacerbation.  You are now being discharged.

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

Good luck!

 
Followup Instructions:
___